US06369086B1
4-[N′-(5-Amino-2-oxo-1,2-dihydro-indol-3-ylidene)-hydrazino]-benzenesulfonamide hydrochloride (Z-isomer)
The title compound was prepared from 5-amino-1H-indole-2,3-dione and 4-hydrazinobenzenesulfonamide hydrochloride according to Procedure G: 1H NMR (DMSO-d6): δ6.95 (d, J=8 Hz, 1H), 7.2 (d, J=8 Hz, 1H), 7.26 (s, 2H), 7.46 (s, 1H), 7.5 (d, J=8 Hz, 2H), 7.8 (d, J=8 Hz, 2H), 9.7 (br s, 3H), 11.2 (s, 1H), 12.8 (s, 1H); APCI−MS m/z 330.2 (M−H)−.

reactant | 5-amino-1H-indole-2,3-dione | NC=1C=C2C(C(NC2=CC1)=O)=O | C8H6N2O2
reactant | 4-hydrazinobenzenesulfonamide hydrochloride | Cl.N(N)C1=CC=C(C=C1)S(=O)(=O)N
product | 4-[N′-(5-Amino-2-oxo-1,2-dihydro-indol-3-ylidene)-hydrazino]-benzenesulfonamide hydrochloride | Cl.NC=1C=C2C(C(NC2=CC1)=O)=NNC1=CC=C(C=C1)S(=O)(=O)N | InChI=1S/C14H13N5O3S.ClH/c15-8-1-6-12-11(7-8)13(14(20)17-12)19-18-9-2-4-10(5-3-9)23(16,21)22;/h1-7,18H,15H2,(H2,16,21,22)(H,17,19,20);1H
